US09284331B2
Step 3: 4-(1-((tert-butyldimethylsilyl)oxy)cyclopropyl)-1H-imidazole.
A solution of 1-(1H-imidazol-4-yl)cyclopropanol (700 mg, 5.64 mmol) in DMF (1 mL) was treated with imidazole (768 mg, 11.28 mmol) and TBSCl (935 mg, 6.20 mmol) and the mixture was stirred at RT for 2 h. The mixture was then poured onto H2O, and extracted with AcOEt. The combined org. layers were dried over Na2SO4, filtered and concentrated in vacuo to give the title compound (850 mg) that was used as it is. UPLC-MS: MS 239.2 (M+H+); UPLC rt 0.82 min.

reactant | 1-(1H-imidazol-4-yl)cyclopropanol | 5.64 mmol, 700 mg | N1C=NC(=C1)C1(CC1)O | C6H8N2O
reactant | imidazole | 11.28 mmol, 768 mg | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 6.20 mmol, 935 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(1-((tert-butyldimethylsilyl)oxy)cyclopropyl)-1H-imidazole | 850 mg | [Si](C)(C)(C(C)(C)C)OC1(CC1)C=1N=CNC1 | C12H22N2OSi
